US04431652
Step A. [4-(3,4-Dichlorophenyl)thiazol-2-yl]methanesulfonamide
A mixture of sulfamoylthioacetamide (7.7 g., 0.05 mol) and 3,4-dichlorophenacyl bromide (13.4 g., 0.05 mol) in ethanol (50 ml) was heated at reflux for 2 hours. After cooling and filtration there was obtained 11.5 g. of the desired intermediate, m.p. 187°-190° C.

reactant | sulfamoylthioacetamide | 0.05 mol, 7.7 g | S(N)(=O)(=O)CC(=S)N | C2H6N2O2S2
reactant | 3,4-dichlorophenacyl bromide | 0.05 mol, 13.4 g | ClC=1C=C(C(CBr)=O)C=CC1Cl | C8H5BrCl2O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | [4-(3,4-Dichlorophenyl)thiazol-2-yl]methanesulfonamide | ClC=1C=C(C=CC1Cl)C=1N=C(SC1)CS(=O)(=O)N | C10H8Cl2N2O2S2
